US08084481B2
Methyl {[2-(4-chlorophenyl)-2-oxoethyl]amino}acetate
A solution of glycine methyl ester hydrochloride (5.00 g, 39.8 mmol) in 80 ml methyl isobutyl ketone is treated with 12.6 g of sodium carbonate and the mixture stirred overnight at RT. Next, a solution of 2-bromo-1-(4-chlorophenyl)ethanone (8.37 g, 35.8 mmol) in 40 ml methyl isobutyl ketone is added dropwise to this suspension. The mixture is stirred for 1 hr more at RT, then the solid is suction-filtered and washed with 55 ml methyl isobutyl ketone. The filtrate is acidified with 12 ml of 6 N hydrochloric acid, then treated with 6.4 ml isopropanol. The precipitated solid is filtered off at the pump, washed with a little methyl isobutyl ketone, then stirred in 240 ml of acetonitrile and again suction-filtered. 3.41 g (34% of theory) of the pure title compound are thus obtained.

reactant | glycine methyl ester hydrochloride | 39.8 mmol, 5.00 g | Cl.COC(CN)=O
reactant | sodium carbonate | 12.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-1-(4-chlorophenyl)ethanone | 35.8 mmol, 8.37 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | methyl isobutyl ketone | 80 ml | C(C(C)C)C(=O)C | C6H12O
solvent | methyl isobutyl ketone | 40 ml | C(C(C)C)C(=O)C | C6H12O
product | Methyl {[2-(4-chlorophenyl)-2-oxoethyl]amino}acetate | ClC1=CC=C(C=C1)C(CNCC(=O)OC)=O | C11H12ClNO3
